simulator lang=spectre
global 0
simulatorOptions options checklimitdest=psf
parameters vi_sig=vdd/2 cl=0.1f vdd=100m low=0 high=vdd period=20u numSamples=300
include "/eda/kits/cadence/45nm/gpdk045_v6.0/gpdk045/../models/spectre/gpdk045.scs" section=mc

VDD (vdd 0) vsource dc=vdd type=dc
VI (driver_in 0) vsource dc=vi_sig type=pulse val0=low val1=high period=period width=period/2
DRIVER (driver_in driver_out vdd 0) inverter_bitcell
v_dummy1 (driver_out vi) vsource type=dc
DUT (vi vo vdd 0) inverter_bitcell
v_dummy2 (vo load_in) vsource type=dc
LOAD (load_in load_out vdd 0) inverter_bitcell
cl (load_out 0) capacitor c=cl

tran tran stop=period annotate=status strobeperiod=period/numSamples
dcOp dc maxiters=150 maxsteps=10000 annotate=status
dc dc param=vi_sig start=0 stop=vdd lin=numSamples


subckt tran_gate IN OUT HIGHZ HIGHZ_BAR VDD VSS
    NM1 (IN HIGHZ_BAR OUT VSS) g45n1lvt w=(200n) l=90n nf=1 as=28f ad=28f \
            ps=680n pd=680n nrd=700m nrs=700m sa=140n sb=140n sd=160n \
            sca=162.68789 scb=0.10361 scc=0.01965 m=(1)
    PM1 (IN HIGHZ OUT VDD) g45p1lvt w=(200n) l=90n nf=1 as=28f ad=28f ps=680n \
            pd=680n nrd=700m nrs=700m sa=140n sb=140n sd=160n sca=162.68789 \
            scb=0.10361 scc=0.01965 m=(1)
ends


